US04167574
A mixture of 5.7 parts of methyl 1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-(phenylamino)-4-piperidinecarboxylate, 1.9 parts of cyclopropanecarbonyl chloride, 2.7 parts of N,N-diethylethanamine and 68 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is cooled, 100 parts of water are added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and treated with 1 part of ethanedioic acid. The formed ethanedioate salt is filtered off and crystallized from a mixture of 2-propanone and 2,2'-oxybispropane, yielding 1.5 parts (17.5%) of methyl 4-[(cyclopropylcarbonyl)phenylamino]-1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-piperidinecarboxylate ethanedioate (2:3); mp. 181.5° C.

reactant | methyl 1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-(phenylamino)-4-piperidinecarboxylate | C(C)N1N=NN(C1=O)CCN1CCC(CC1)(C(=O)OC)NC1=CC=CC=C1 | C18H26N6O3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
reactant | water | O | H2O
product | methyl 4-[(cyclopropylcarbonyl)phenylamino]-1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-piperidinecarboxylate ethanedioate | 17.5% | C(C(=O)O)(=O)O.C1(CC1)C(=O)N(C1(CCN(CC1)CCN1N=NN(C1=O)CC)C(=O)OC)C1=CC=CC=C1 | InChI=1S/C22H30N6O4.C2H2O4/c1-3-26-21(31)27(24-23-26)16-15-25-13-11-22(12-14-25,20(30)32-2)28(19(29)17-9-10-17)18-7-5-4-6-8-18;3-1(4)2(5)6/h4-8,17H,3,9-16H2,1-2H3;(H,3,4)(H,5,6)
